US08975254B2
c) N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)-5-(morpholine-4-carbonyl)pyrazine-2-carboxamide
5-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethylcarbamoyl)pyrazine-2-carboxylic acid (0.11 g; 0.29 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.083 g: 0.43 mmol), anhydrous HOBt (0.058 g; 0.43 mmol), dipea (0.075 ml; 0.43 mmol) and morpholine (0.025 g; 0.29 mmol) were dissolved in 5 ml of dry DCM and stirred overnight. The solution was diluted with 10 ml of DCM and washed with 3×5 ml water. The combined water phases were extracted with 2×5 ml DCM and the combined organic phases dried over Na2SO4, filtered and evaporated to dryness. The product was purified using flash chromatography DCM/MeOH as gradient eluent. Yield 0.06 g. 1H-NMR (400 MHz; d6-DMSO): δ 3.45 (t, 2H), 3.56 (t, 2H), 3.69 (s, 4H), 3.76-3.80 (m, 2H), 4.42 (t, 2H), 6.97 (d, 1H), 7.87 (d, 1H), 7.94-8.01 (m, 2H), 8.01 (s, 1H), 8.93 (d, 1H), 9.13 (s, HA), 9.22-9.25 (t, 1H).

reactant | 5-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethylcarbamoyl)pyrazine-2-carboxylic acid | 0.29 mmol, 0.11 g | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)CCNC(=O)C=1N=CC(=NC1)C(=O)O | C18H13ClN6O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.43 mmol, 0.083 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBt | 0.43 mmol, 0.058 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | morpholine | 0.29 mmol, 0.025 g | N1CCOCC1 | C4H9NO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)-5-(morpholine-4-carbonyl)pyrazine-2-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)CCNC(=O)C1=NC=C(N=C1)C(=O)N1CCOCC1 | C22H20ClN7O3
